datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:62]/[C:11](=[CH:10]/[S:71](C1=CC=CC=C1)=[O:72])[O-:12].FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:62][C:11]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(CC(F)(F)F)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C2=CC=CC=C2)[CH:45]=[CH:46]1)[S:71](C1=CC=CC=C1)=[O:72])=[O:12] 10,11=10,20;12=11,12"
"CC[CH:11]([H:10])[CH2:62][Si:63](C)(C)C.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[CH+:11][CH2:62][Si:63](C)(C)C.C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;20,21=21,22;22,23=23"
"C[N:62](C)[C:61](=[NH:10])[N:72](C)C.ClC[N+]12CC[N+:21]([F:20])(CC1)CC2>>C[N:62](C)[C:61](=[NH+:10][F:20])[N:72](C)C.ClC[N+]12CC[N:21](CC1)CC2 10=20;20,21=21"
"C[Si:63](C)(C)[CH:62]1CC[CH:10]=[CH:11]1.FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].C[Si:63](C)(C)[CH:62]1CC[CH:10]([S:20]C(F)F)[CH+:11]1 10,11=10,20;20,21=21,22;22,23=23"
"C[Si](C)(C)[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:73]=[CH:72]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>C[Si](C)(C)[C+:11]([CH2:10][CH:20]([C:31]12C3[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:73]=[CH:72]1 10,11=10,20"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.C[Zr:11]12345678([CH3:10])(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH3:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.C[Zr+:11]12345678(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]1)[O-:12].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CC[O:61][C:11]([C:10]([CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)C[Si:11](C)(C)[H:10].CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC(C)(C)C[Si+:11](C)C.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1C[N:72]([C:61]([S-:10])=[S:62])CCO1.COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1>>COC1=CC=[N+](C[C:21]([CH:20]([S:10][C:61](=[S:62])[N:72]2CCOCC2)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10=20;20,21=21,22;22,23=23"
"CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1.O=[N+]([O-])[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([O:10][C:61]2=[CH:62][C:63]([N+](=O)[O-])=[CH:64][CH:73]=[CH:72]2)[N-:21]1 10=20;20,21=21"
"CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)[O-:12].ClC[N+]12CC[N+:21]([F:20])(CC1)CC2>>CC[O:61][C:11]([C:10]([F:20])([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:12].ClC[N+]12CC[N:21](CC1)CC2 10,11=10,20;12=11,12;20,21=21"
Cl[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([S-:10])=[CH:62]1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([S:10][C:61]2=[CH:62][C:63](Cl)=[CH:64][CH:73]=[CH:72]2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC[Sn:63](CC)(CC)[CH2:62][CH2:11][H:10].C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC[Sn:63](CC)(CC)[CH2:62][CH2+:11].C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10,11=10,20"
CC1=C[C:64]2=[C:63](C=C1)[NH:62][C:61](C)=[N:10]2.CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2>>CC1=C[C:64]2=[C:63](C=C1)[NH:62][C:61](C)=[N+:10]2[CH:20]([C:31]1=[CH:32][C:33]2=[C:34](N(C)CCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1 10=20
